US07101891B2
3-{[3-(2-chloro-6-fluoro-phenyl)-5-methyl-isoxazole-4-carbonyl]-amino}-piperidine-1-carboxylic acid methyl ester
Add 4-dimethylamino-pyridine (0.19 g, 1.5 mmol), triethylamine (3.2 mL, 23.2 mmol), and 3-(2-chloro-6-fluoro-phenyl)-5-methyl-isoxazole-4-carbonyl chloride (5.53 g, 20.1 mmol) to a solution of 3-amino-piperidine-1-carboxylic acid methyl ester (2.45 g, 15.5 mmol) in dichloromethane (100 mL). Stir the reaction at room temperature under nitrogen overnight. Wash the reaction with 1N HCl, saturated aqueous sodium bicarbonate solution, and brine; dry over magnesium sulfate; and concentrate. Purify by flash chromatography on silica gel (eluting with 0.75% methanol/chloroform) to give 5.49 g of the title compound as a yellow foam, 90% yield. 1H NMR: consistent with structure. MS (ion spray) 396 (M+).

reactant | triethylamine | 23.2 mmol, 3.2 mL | C(C)N(CC)CC | C6H15N
reactant | 3-(2-chloro-6-fluoro-phenyl)-5-methyl-isoxazole-4-carbonyl chloride | 20.1 mmol, 5.53 g | ClC1=C(C(=CC=C1)F)C1=NOC(=C1C(=O)Cl)C | C11H6Cl2FNO2
reactant | 3-amino-piperidine-1-carboxylic acid methyl ester | 15.5 mmol, 2.45 g | COC(=O)N1CC(CCC1)N | C7H14N2O2
catalyst | 4-dimethylamino-pyridine | 1.5 mmol, 0.19 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 3-{[3-(2-chloro-6-fluoro-phenyl)-5-methyl-isoxazole-4-carbonyl]-amino}-piperidine-1-carboxylic acid methyl ester | 5.49 g, 90% yield | COC(=O)N1CC(CCC1)NC(=O)C=1C(=NOC1C)C1=C(C=CC=C1F)Cl | C18H19ClFN3O4
